US08049015B2
3-(Benzylamino-methyl)-4-bromo-benzonitrile and cyclopropanecarbonyl chloride were reacted as described in Example 2, Step 3 to provide cyclopropanecarboxylic acid benzyl-(2-bromo-5-cyano-benzyl)-amide.

reactant | 3-(Benzylamino-methyl)-4-bromo-benzonitrile | C(C1=CC=CC=C1)NCC=1C=C(C#N)C=CC1Br | C15H13BrN2
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | cyclopropanecarboxylic acid benzyl-(2-bromo-5-cyano-benzyl)-amide | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C#N)Br | C19H17BrN2O
